US04542132
Pyridinium chlorochromate (6.2 g) was added at room temperature to a stirred solution of 6,7-dimethoxy-4-[4-(1-hydroxyethyl)piperid-1-yl]quinazoline (7.60 g) in dichloromethane (150 cm3) and the mixture was stirred for 24 hours. The mixture was filtered through "Avicel" (Trademark) and the solution was washed with 2M sodium hydroxide (3×50 cm3). The dried (MgSO4) organic phase was evaporated and the residue chromatographed on silica ("Merck" 60.9385) eluting with chloroform to give a solid which was recrystallized from ethyl acetate to afford 6,7-dimethoxy-4-[4-(1-oxoethyl)piperid-1-yl]quinazoline, m.p. 116°-117° (3.05 g).

reactant | Pyridinium chlorochromate | 6.2 g | [Cr](=O)(=O)([O-])Cl.[NH+]1=CC=CC=C1
reactant | 6,7-dimethoxy-4-[4-(1-hydroxyethyl)piperid-1-yl]quinazoline | 7.60 g | COC=1C=C2C(=NC=NC2=CC1OC)N1CCC(CC1)C(C)O | C17H23N3O3
solvent | dichloromethane | 150 cm3 | ClCCl | CH2Cl2
product | 6,7-dimethoxy-4-[4-(1-oxoethyl)piperid-1-yl]quinazoline | COC=1C=C2C(=NC=NC2=CC1OC)N1CCC(CC1)C(C)=O | C17H21N3O3
